US04352811
A suspension of 150 g of 4,4-bis-(4-fluorophenyl-3-butenylchloride, 1 l isopropyl alcohol, and 10 g of 10% palladium-on-charcoal was shaken at room temperature under 40 psi of hydrogen. The uptake of hydrogen ceased after about 5 hrs. The mixture was filtered and the solvent was evaporated to provide an oil. Distillation provided 140.2 g (92.8%) of 4,4-bis-(4-fluorophenyl)butylchloride, bp 155°-158° (1.3 mm).

reactant | 4-fluorophenyl-3-butenylchloride | FC1=CC=C(C=C1)C=CCCCl | C10H10ClF
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 10 g | [Pd] | Pd
solvent | isopropyl alcohol | 1 l | C(C)(C)O | C3H8O
product | 4,4-bis-(4-fluorophenyl)butylchloride | 140.2 g, 92.8% | FC1=CC=C(C=C1)C(CCCCl)C1=CC=C(C=C1)F | C16H15ClF2
